US05866613
N-Ethyl-N-(3-chloropropyl)-p-toluenesulfonamide.
3, 7, 11, 16, 20, 24-Hexa(p-toluenesulfonyl)3, 7, 11, 16, 20, 24-hexaazahexacosane. To tetra (p-toluenesulfonyl) spermine (1.02 g, 2.22 mmol) in dry DMF (10 mL) is added sodium hydride (80% in oil, 0.21 g, 7.0 mmol) and potassium iodide (53 mg, 0.32 mmol). After 30 minutes, N-ethyl-t4-(3-chloropropyl)-p-toluenesulfonamide (2.9 g, 10.5 mmol) in DMF (10 mL) is introduced and the mixture is stirred for 20 h at room temperature then heated at 40°-50° C. for 2 h. The cooled reaction mixture is poured Into ice-cold 5% NaOH (100 mL), which is extracted with CHCl3 (3×). A water wash, then solvent removal (rotovap then Kugelrohr distillation) yields crude hexatosylamide. Silica gel chromatography (1% EtOH/CHCl3) affords 1.73 g of product (60%). NMR δ1.08 (t, 6H), 1.45-2.10 (m, 12H), 2.34 (s, 10H), 2.96-3.37 (m, 24H), 7.2-7.8 (m, 24H).

reactant | tetra (p-toluenesulfonyl) spermine | 2.22 mmol, 1.02 g | C1(=CC=C(C=C1)S(=O)(=O)C(N(S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)(CCNCCCCNCCCN)S(=O)(=O)C1=CC=C(C=C1)C)C | C38H50N4O8S4
reactant | sodium hydride | 7.0 mmol, 0.21 g | [H-].[Na+]
reactant | EtOH CHCl3 | CCO.C(Cl)(Cl)Cl
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | potassium iodide | 0.32 mmol, 53 mg | [I-].[K+]
product | N-Ethyl-N-(3-chloropropyl)-p-toluenesulfonamide | 1.73 g, 60% | C(C)N(S(=O)(=O)C1=CC=C(C=C1)C)CCCCl | C12H18ClNO2S
